US09278983B2
To a mixture of 6-bromo-2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (1 g) and THF (20 ml), n-butyllithium (1.5 M in hexane, 2.1 ml) was added dropwise at −78° C. The mixture was stirred at −78° C. for 30 minutes, and then methyl trifluoroacetate (577 μl) was added dropwise. The mixture was heated to room temperature, and then saturated aqueous ammonium chloride solution was poured, and extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure to give 778 mg of crude 1-[2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-yl]-2,2,2-trifluoro-ethanone (hereinafter referred to as Present Compound 91).

reactant | 6-bromo-2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 1 g | BrC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C15H14BrN3S
reactant | n-butyllithium | 1.5 M, 2.1 ml | C(CCC)[Li]
reactant | methyl trifluoroacetate | 577 μl | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[2-(2-ethylsulfanyl-phenyl)-3-methyl-3H-imidazo[4,5-b]pyridin-6-yl]-2,2,2-trifluoro-ethanone | 778 mg | C(C)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(C(F)(F)F)=O)N1C | C17H14F3N3OS
